US04619930
1-(3-Methyl-2-pyridinyl)piperazine
Reaction of the 2-chloro-3-methylpyridine with piperazine in a sealed bomb further using the procedure of Example 1 above resulted in a 50% yield of the desired IIIc product.

reactant | 2-chloro-3-methylpyridine | ClC1=NC=CC=C1C | C6H6ClN
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 1-(3-Methyl-2-pyridinyl)piperazine | CC=1C(=NC=CC1)N1CCNCC1 | C10H15N3
